US08420632B2
A solution of 5.9 g (23 mmol) of commercial methyl (S)-2-amino-3-tert-butoxycarbonylamino-propanoate hydrochloride and of 9.6 g (23 mmol) of benzylbis(2-chloroethyl)amine in 50 ml of N,N-diisopropylethylamine is heated at 127° C. for 3 h 30. After evaporation of the N,N-diisopropylethylamine, the reaction medium is hydrolyzed and then extracted with ethyl acetate. The organic phase is washed with an aqueous solution of sodium hydroxide having a concentration of 1N, and with water, and then dried over magnesium sulfate, filtered and concentrated under vacuum. The crude product obtained is purified by chromatography on silica gel, elution being carried out with a 50/50 heptane/ethyl acetate mixture. 8.9 g (64%) of methyl (S)-2-(4-benzylpiperazin-1-yl)-3-tert-butoxycarbonylaminopropanoate are obtained in the form of a yellow oil.

reactant | methyl (S)-2-amino-3-tert-butoxycarbonylamino-propanoate hydrochloride | 23 mmol, 5.9 g | Cl.N[C@H](C(=O)OC)CNC(=O)OC(C)(C)C
reactant | benzylbis(2-chloroethyl)amine | 23 mmol, 9.6 g | C(C1=CC=CC=C1)N(CCCl)CCCl | C11H15Cl2N
solvent | N,N-diisopropylethylamine | 50 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | methyl (S)-2-(4-benzylpiperazin-1-yl)-3-tert-butoxycarbonylaminopropanoate | 8.9 g, 64% | C(C1=CC=CC=C1)N1CCN(CC1)[C@H](C(=O)OC)CNC(=O)OC(C)(C)C | C20H31N3O4
